US04543360
1-Methyl-2-(4-methoxy-phenyl)-6-methoxy-indole
There were added in portions 0.06 gram atom of sodium to 200 ml of liquid ammonia. At -70° C. there were dropped into the sodamide solution a solution of 8.85 grams (35 mmol) of 2-(4-methoxy-phenyl)-6-methoxy-indole in 100 ml of absolute tetrahydrofuran, stirring continued for one-half hour and then there were dropped in 6 grams (42 mmol) of methyl iodide in 30 ml of absolute tetrahydrofuran. After a further 30 minutes there was removed the cold bath and the ammonia allowed to vaporize overnight. The residue was treated carefully with water and then extracted with ether. The organic phase was washed, dried, and the solvent removed on a rotary evaporator. The residue is recrystallized from ethanol. Yield: 8.63 grams, M.P. 163°-166° C.

reactant | sodium | [Na] | Na
reactant | ammonia | N | H3N
reactant | sodamide | [NH2-].[Na+]
reactant | 2-(4-methoxy-phenyl)-6-methoxy-indole | 35 mmol, 8.85 grams | COC1=CC=C(C=C1)C=1NC2=CC(=CC=C2C1)OC | C16H15NO2
reactant | methyl iodide | 42 mmol, 6 grams | CI | CH3I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-Methyl-2-(4-methoxy-phenyl)-6-methoxy-indole | CN1C(=CC2=CC=C(C=C12)OC)C1=CC=C(C=C1)OC | C17H17NO2
